US07569582B2
0.64 ml of diphosgene is placed in 10 ml of dichloromethane at 0° C. under N2. A solution of 1.0 g of tert-butyl 3-(cyclohexylamino)-8-azabicyclo[3.2.1]-octane-8-carboxylate endo compound and 2.26 ml of triethylamine in 10 ml of dichloromethane is added dropwise. The solution is stirred at 0° C. for 30 min and then at ambient temperature for 4 h. 5 ml of triethylamine and 1.0 ml of diphosgene are then added. After stirring at ambient temperature for 2 h, 1.68 ml of diethylamine are added. The mixture is stirred at ambient temperature for 16 h. After concentration, 0.5N hydrochloric acid is added up to an acid pH. Extraction is carried out with dichloromethane until the aqueous phase is completely depleted. The organic phase is washed with H2O, and then with a saturated aqueous sodium chloride solution. After drying over MgSO4 and concentration to dryness, the residue obtained is chromatographed on silica gel, elution being carried out with a 99/1 and then 95/5 mixture of dichloromethane and methanol, to give 1.60 g of tert-butyl 3-{cyclohexyl[(diethylamino)carbonyl]amino}-8-azabicyclo[3.2.1]octane-8-carboxylate as a mixture with diethylurea.

reactant | diphosgene | 0.64 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | tert-butyl 3-(cyclohexylamino)-8-azabicyclo[3.2.1]-octane-8-carboxylate | 1.0 g | C1(CCCCC1)NC1CC2CCC(C1)N2C(=O)OC(C)(C)C | C18H32N2O2
reactant | triethylamine | 2.26 ml | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | diphosgene | 1.0 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | diethylamine | 1.68 ml | C(C)NCC | C4H11N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl 3-{cyclohexyl[(diethylamino)carbonyl]amino}-8-azabicyclo[3.2.1]octane-8-carboxylate | 1.60 g | C1(CCCCC1)N(C1CC2CCC(C1)N2C(=O)OC(C)(C)C)C(=O)N(CC)CC | C23H41N3O3
